US06191146B1
c) 1,7-Bis(picolinoylamino)-1,2,3,4-tetrahydronaphthalene
The compound of Example 1(c) (0.95 g, 5.8 mmol) was dissolved in DMF (10 mL) and was treated at 0° C. with picolinic acid (2.14 g, 17.4 mmol), Bop reagent (7.70 g, 17.4 mmol), HOBt (2.35 g, 17.4 mmol) and iPr2EtN (10.1 mL, 58.0 mmol). After 20 h at RT, the solvent was evaporated under high vacuum. The residue was dissolved in CHCl3 and washed with 1 N HCl. Removal of solvent under reduced pressure gave crude product which was purified by flash chromatography (silica gel, 40% EtOAc in hexane) to give 430 mg of the desired material. This material was further recrystallized from CHCl3:EtOAc:Hexane (3:1:1) to give 230 mg of pure material. MS (ES+) m/z 373 [M+H]+.

reactant | picolinic acid | 17.4 mmol, 2.14 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | Bop reagent | 17.4 mmol, 7.70 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 17.4 mmol, 2.35 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | iPr2EtN | 58.0 mmol, 10.1 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1,7-Bis(picolinoylamino)-1,2,3,4-tetrahydronaphthalene | 430 mg | N1=C(C=CC=C1)C(=O)NC1CCCC2=CC=C(C=C12)NC(C1=NC=CC=C1)=O | C22H20N4O2
